US04898867
A 0.3 g quantity of 1-ethoxycarbonylmethyl-3-(3,4-dichlorobenzyl)-5-methylthieno[2,3-d]pyrimidin-2,4(1H,3H)-dione (compound IV-5) synthesized in Reference Example 6 and 0.137 g of N-bromosuccinimide were dissolved in 30 ml of anhydrous tetrachloromethane, and the mixture was refluxed for 2 hours. The solvent was distilled off under reduced pressure and the residual solid obtained was purified by silica gel column chromatography (eluent:chloroform:n-hexane=2:1) to afford 0.30 g of 1-ethoxycarbonylmethyl-3-(3,4-dichlorobenzyl)-6-bromo-5-methylthieno[2,3-d]pyrimidin-2,4(1H,3H)-dione having m.p. of 165.5° to 167° C. in a yield of 85%.

reactant | 1-ethoxycarbonylmethyl-3-(3,4-dichlorobenzyl)-5-methylthieno[2,3-d]pyrimidin-2,4(1H,3H)-dione | C(C)OC(=O)CN1C(N(C(C2=C1SC=C2C)=O)CC2=CC(=C(C=C2)Cl)Cl)=O | C18H16Cl2N2O4S
reactant | N-bromosuccinimide | 0.137 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrachloromethane | 30 ml | ClC(Cl)(Cl)Cl | CCl4
product | 1-ethoxycarbonylmethyl-3-(3,4-dichlorobenzyl)-6-bromo-5-methylthieno[2,3-d]pyrimidin-2,4(1H,3H)-dione | 0.30 g, yield of 85% | C(C)OC(=O)CN1C(N(C(C2=C1SC(=C2C)Br)=O)CC2=CC(=C(C=C2)Cl)Cl)=O | C18H15BrCl2N2O4S
